US07847101B2
Preparation 15:Synthesis of Benzoxazol-2-ylacetonitrile
To a solution of 2-aminophenol (5.0 g, 45.8 mmol) dissolved in 115 mL of anhydrous ethanol and 8 mL of glacial acetic acid was added malonitrile (9.08 g, 140 mmol) at 100° C. The resulting homogeneous solution was refluxed for 24 hours and the solvent was removed in vacuo to yield a red/brown oil. The oil was diluted with CH2Cl2 (100 mL) and any remaining solids were then removed by filtration. The mother liquor was washed twice with a saturated sodium bicarbonate solution and twice with water, dried over magnesium sulfate, filtered and evaporated to yield 5.2 g (71%) of the product as a yellow oil. This material was used in the subsequent reaction without further purification.

reactant | 2-aminophenol | 45.8 mmol, 5.0 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
reactant | malonitrile | 140 mmol, 9.08 g | C(C(O)CC#N)#N | C4H4N2O
solvent | ethanol | 115 mL | C(C)O | C2H6O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Benzoxazol-2-ylacetonitrile | 5.2 g, 71% | O1C(=NC2=C1C=CC=C2)CC#N | C9H6N2O
